US06518424B1
A solution of 4-isobutylbenzoic acid (5.00 g, 28.0 mmol) in CH2Cl2 was cooled in an ice bath and treated with oxalyl chloride (5 mL) and DMF (1 drop). The mixture was warmed to room temp and stirred 1 h. The volatiles were removed in vacuo to give the crude acid chloride which as dissolved in benzene (50 mL). Aluminum chloride (4.49 g, 33.3 mmol) was added and the mixture was heated to reflux for 3.5 h. The mixture was cooled to room temp and then poured onto ice (ca. 100 g). The mixture was extracted with EtOAc (3×100 mL) and the combined organic extracts were washed with ½ satd aqueous NaHCO3 (100 mL), dried (Na2SO4), filtered and evaporated in vacuo. The resulting residue was purified by silica gel chromatography (elute with 10:1 hexane/EtOAc) to give 4-isobutylbenzophenone (5.48 g, 81%). 1H NMR (CDCl3) 7.75 (m, 4H), 7.53 (d, 1H), 7.47 (t, 2H), 7.23 (d, 2H), 2.53 (d, 2H), 1.91 (m, 1H), 0.92 (d, 6H).

reactant | 4-isobutylbenzoic acid | 28.0 mmol, 5.00 g | C(C(C)C)C1=CC=C(C(=O)O)C=C1 | C11H14O2
reactant | oxalyl chloride | 5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Aluminum chloride | 33.3 mmol, 4.49 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 4-isobutylbenzophenone | 5.48 g, 81% | C(C(C)C)C1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C17H18O
